US07906517B2
Trifluoromethanesulfonic acid 2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl ester (110 mg) is dissolved in 1,4-dioxane (2 ml) and thereto are added 2,4-dimethoxy-pyrimidine-5-boronic acid (70 mg), palladium acetate (13.2 mg), 1,1′-bis(di-tert-butylphosphino)ferrocene (28 mg) and tripotassium phosphate (62 mg) and the mixture is stirred under nitrogen atmosphere at 80° C. for 4 hours. The reaction solution is cooled to room temperature, and thereto are added ethyl acetate and water, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give (3,5-bis-trifluoromethyl-benzyl)-[2-(2,4-dimethoxy-pyrimidin-5-yl)-5-trifluoromethyl-benzyl]-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amine (34 mg). MS (m/z): 740 [M+H]+

reactant | Trifluoromethanesulfonic acid 2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl ester | 110 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCS(=O)(=O)C)CC2=C(C=CC(=C2)C(F)(F)F)OS(=O)(=O)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C25H19F12N3O6S2
reactant | 2,4-dimethoxy-pyrimidine-5-boronic acid | 70 mg | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | tripotassium phosphate | 62 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 13.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(di-tert-butylphosphino)ferrocene | 28 mg | C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
solvent | water | O | H2O
product | (3,5-bis-trifluoromethyl-benzyl)-[2-(2,4-dimethoxy-pyrimidin-5-yl)-5-trifluoromethyl-benzyl]-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amine | 34 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCS(=O)(=O)C)CC2=C(C=CC(=C2)C(F)(F)F)C=2C(=NC(=NC2)OC)OC)C=C(C1)C(F)(F)F)(F)F | C30H26F9N5O5S
